US05635573
1,8-nonadiene;
1,8-decadiene; 1,9-decadiene;

reactant | 1,8-decadiene | C=CCCCCCC=CC | C10H18
reactant | 1,9-decadiene | C=CCCCCCCC=C | C10H18
product | 1,8-nonadiene | C=CCCCCCC=C | C9H16
